US04876393
2.3 g (0.01 mole) of 3-bromo-4-ethoxy-1,1,1-trifluorobut-3-en-2-one are added to a solution of 4.2 g (0.02 mol) of 2,4,6-trichlorophenyl-hydrazine in 100 ml of ethanol which contains 0.01 mole hydrogen bromide. The mixture is refluxed for 5 hours and then concentrated under reduced pressure, and ice water is added to the residue. Extraction with dichloromethane, washing with saturated sodium chloride solution until neutral, clarification over anhydrous sodium sulphate and concentration gives 4.6 g of a crude product, which is chromatographed on 120 g of silica gel using toluene/petroleum ether (ratio 1:1). 1.2 g of 4-bromo-1-(2,4,6-trichloro-phenyl)-3-trifluoromethylpyrazole of melting point 93°-94° C. (from petroleum ether) are obtained.

reactant | 3-bromo-4-ethoxy-1,1,1-trifluorobut-3-en-2-one | 0.01 mole, 2.3 g | BrC(C(C(F)(F)F)=O)=COCC | C6H6BrF3O2
reactant | 2,4,6-trichlorophenyl-hydrazine | 0.02 mol, 4.2 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | hydrogen bromide | 0.01 mole | Br | BrH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-bromo-1-(2,4,6-trichloro-phenyl)-3-trifluoromethylpyrazole | 1.2 g | BrC=1C(=NN(C1)C1=C(C=C(C=C1Cl)Cl)Cl)C(F)(F)F | C10H3BrCl3F3N2
